US04713383
A mixture of 3-(2-amino-3,5-dichlorophenyl)-5-phenyl-1H-1,2,4-triazole (6 g) and ethylcarbamate (50 g) is heated under nitrogen at 195° for 6 hours after which it is cooled to 80°, poured into water (1000 ml) and stirred 16 hours. The product is collected, washed with water, then methanol (300 ml) and air dried. The crude material is recrystallized from 12:1 2-methoxyethanol-water to afford pure 7,9-dichloro-2-phenyl-[1,2,4]triazolo[1,5-c]quinazolin-5(6H)one, mp 309°-311°.

reactant | 3-(2-amino-3,5-dichlorophenyl)-5-phenyl-1H-1,2,4-triazole | 6 g | NC1=C(C=C(C=C1Cl)Cl)C1=NNC(=N1)C1=CC=CC=C1 | C14H10Cl2N4
reactant | ethylcarbamate | 50 g | C(C)NC([O-])=O
solvent | water | 1000 ml | O | H2O
product | 7,9-dichloro-2-phenyl-[1,2,4]triazolo[1,5-c]quinazolin-5(6H)one | ClC1=CC(=CC=2C=3N(C(NC12)=O)N=C(N3)C3=CC=CC=C3)Cl | C15H8Cl2N4O
